US04407930
A. 2-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-p-cresol hydrochloride
To a stirred solution of 6-amino-2,5-dimethylbenzoxazole (14.8 g, 0.1 mol) in 100 ml of pyridine and 500 ml of dichloromethane was added N,N-dioctadecyl-3-chlorosulfonylbenzamide (72.4 g, 0.1 mol). The mixture was stirred overnight and then washed with water, 10 percent aqueous hydrochloric acid and again with water. To the organic layer was added 10 ml of hydrochloric acid, 300 ml of water and 1000 ml of THF. The mixture was stirred overnight and the precipitate collected, washed with acetonitrile and nearly dried. The damp filter cake was placed in 2 liters of THF and 50 ml of concentrated hydrochloric acid and refluxed 2 hours. The mixture was concentrated to an oil and triturated with one liter of acetonitrile to yield 77.5 g (90 percent) of the product.

reactant | 6-amino-2,5-dimethylbenzoxazole | 0.1 mol, 14.8 g | NC1=CC2=C(N=C(O2)C)C=C1C | C9H10N2O
reactant | N,N-dioctadecyl-3-chlorosulfonylbenzamide | 0.1 mol, 72.4 g | C(CCCCCCCCCCCCCCCCC)N(C(C1=CC(=CC=C1)S(=O)(=O)Cl)=O)CCCCCCCCCCCCCCCCCC | C43H78ClNO3S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)-p-cresol hydrochloride | 77.5 g, 90 percent | Cl.NC1=CC(=C(C=C1O)NS(=O)(=O)C1=CC(=CC=C1)C(N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC)=O)C | InChI=1S/C50H87N3O4S.ClH/c1-4-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-39-53(40-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-5-2)50(55)45-37-36-38-46(42-45)58(56,57)52-48-43-49(54)47(51)41-44(48)3;/h36-38,41-43,52,54H,4-35,39-40,51H2,1-3H3;1H
